US07235545B2
Step C. 3-Amino-5-(2,3-difluorophenyl)-1-(2-methoxyethyl)piperidin-2-one
10% Platinum on carbon (320 mg) was added to a solution of 5-(2,3-difluorophenyl)-1-(2-methoxyethyl)-3-nitropyridin-2(1H)-one (300 mg, 0.967 mmol) in acetic acid (10 mL). The reaction vessel was evacuated and back-filled with nitrogen (3×), then back-filled with hydrogen (56 psi). After 65 h, the mixture was filtered and concentrated. MS 285 (M+1).

reactant | 5-(2,3-difluorophenyl)-1-(2-methoxyethyl)-3-nitropyridin-2(1H)-one | 0.967 mmol, 300 mg | FC1=C(C=CC=C1F)C=1C=C(C(N(C1)CCOC)=O)[N+](=O)[O-] | C14H12F2N2O4
catalyst | Platinum on carbon | 320 mg | [Pt] | Pt
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 3-Amino-5-(2,3-difluorophenyl)-1-(2-methoxyethyl)piperidin-2-one | NC1C(N(CC(C1)C1=C(C(=CC=C1)F)F)CCOC)=O | C14H18F2N2O2
